US08431695B2
Preparation of 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}-N,N-dimethylacetamide
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (100 mg, 0.24 mmol) in DMF (1.5 mL) was added 2-chloro-N,N-dimethylacetamide (32 mg, 0.26 mmol) and N,N-diisopropylethylamine (123 μL, 0.71 mmol). The reaction was stirred at 60° C. for 17 h. The crude mixture was purified via ISCO® chromatography using 9:1 CH2Cl2 to afford 23 mg (19%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.89 (s, 1 H), 7.78 (d, 1 H), 7.57 (s, 1 H), 7.25-7.45 (m, 5 H), 7.09-7.19 (m, 1 H), 6.63 (s, 1 H), 5.65 (s, 2 H), 3.34-3.52 (m, 2 H), 2.97-3.16 (m, 6H), 2.72-2.91 (m, 4 H), 2.09-2.43 (m, 2 H), 1.85-2.06 (m, 1 H), 1.44-1.89 (m, 2 H); ES-MS m/z 509.30 HPLC RT (min) 2.42.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.24 mmol, 100 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CCNCC2 | C25H25N7
reactant | 2-chloro-N,N-dimethylacetamide | 0.26 mmol, 32 mg | ClCC(=O)N(C)C | C4H8ClNO
reactant | N,N-diisopropylethylamine | 0.71 mmol, 123 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-{3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]piperidin-1-yl}-N,N-dimethylacetamide | 23 mg, 19% | NC1=NC=NN2C1=C(C=C2C2CN(CCC2)CC(=O)N(C)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C29H32N8O
